US07109229B2
(b) 3-(5-Bromo-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dion
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (200 mg, 1.06 mmol) and methyl 2-(5-bromo-1H-indol-3-yl)oxoacetate (300 mg, 1.06 mmol) in DMF (5.4 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (1.06 mL, 1.06 mmol) at 4° C. under N2. The reaction was stirred for 20 min at this temperature, and additional KOtBu (2.12 mL, 2.12 mmol) was added. The resulting dark red solution was heated up to 50° C. overnight. The mixture was cooled to room temperature, quenched with 1N HCl (9 mL) and poured into EtOAc (300 mL). The organic layer was separated, washed with saturated aqueous NaHCO3 (150 mL), and brine (3×150 mL). The solution was dried (MgSO4), filtered, and concentrated to an orange solid. Flash chromatography (SiO2, 30% EtOAc/hexanes) gave the title compound (201 mg, 45%) as an orange solid, mp 270–290° C. dec.

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.06 mmol, 200 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(5-bromo-1H-indol-3-yl)oxoacetate | 1.06 mmol, 300 mg | BrC=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C11H8BrNO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 1.06 mmol, 1.06 mL | C1CCOC1 | C4H8O
reactant | KOtBu | 2.12 mmol, 2.12 mL | CC(C)(C)[O-].[K+]
solvent | DMF | 5.4 mL | CN(C)C=O | C3H7NO
product | 3-(5-Bromo-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dion | 201 mg, 45% | BrC=1C=C2C(=CNC2=CC1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C21H14BrN3O2
